US04322439
Analogously to Example 13(b) of 9.6 g of 6-methyl-1,2,3,4-tetrahydroquinolin-2-one are reacted with TEBA and dimethyl sulphate in methylene chloride/50% strength sodium hydroxide solution. After extraction with methylene chloride there are obtained 10.2 g (98% of theory) of 1,6-dimethyl-1,2,3,4-tetrahydroquinolin-2-one as a tough oil. The oil is hydrolysed in aqueous-basic solution analogously to Example 3(b).

reactant | 6-methyl-1,2,3,4-tetrahydroquinolin-2-one | 9.6 g | CC=1C=C2CCC(NC2=CC1)=O | C10H11NO
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | TEBA | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,6-dimethyl-1,2,3,4-tetrahydroquinolin-2-one | 10.2 g, 98% | CN1C(CCC2=CC(=CC=C12)C)=O | C11H13NO
